US07384934B2
2-Amino-5-trifluoromethyl-benzonitrile
Heat a mixture of copper (I) cyanide (2.24 g, 25.00 mmol) and 2-bromo-4-trifluoromethyl-phenylamine (5.0 g, 20.83 mmol from Avocado) in 1-methyl-2-pyrrolidinone (20 ml) to 195° C. for four hours. Dilute the reaction mixture with 100 ml of ethyl acetate and wash the dark solution twice with 28% aqueous ammonium hydroxide, twice with saturated aqueous sodium chloride (brine) and twice with water. Collect the organic layer, dry over sodium sulfate and remove the solvent under reduced pressure. Purify the residue via flash chromatography eluting with a step gradient starting with hexanes and going to 70% hexanes with 30% ethyl acetate to obtain 1.821 g (9.78 mmol, 47% yield) the title compound as a green amorphous solid: Mass Spectrum (m/e): 187(M+1).

reactant | copper (I) cyanide | 25.00 mmol, 2.24 g | [Cu]C#N
reactant | 2-bromo-4-trifluoromethyl-phenylamine | 20.83 mmol, 5.0 g | BrC1=C(C=CC(=C1)C(F)(F)F)N | C7H5BrF3N
solvent | 1-methyl-2-pyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-Amino-5-trifluoromethyl-benzonitrile | 9.78 mmol, 1.821 g, 47% yield | NC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H5F3N2
